US05278161
11.2 g (200 mmol) of potassium hydroxide in 75 ml of water are added at 0° dropwise to a suspension of 11.6 g (100 mmol) of 2-oxo-n-valeric acid and 12.6 g (100 mmol) of 2-acetylthiophene in 75 ml of ethanol and the suspension is held at 0° for 48 hours. After evaporation of the ethanol the residue is made acidic with 25% hydrochloric acid and extracted three times with ethyl acetate. The combined ethyl acetate extracts are dried, filtered and evaporated. After chromatography on silica gel using a 5:1 mixture of methylene chloride and methanol as the eluent and crystallisation from ether there are obtained 10.0 g (41%) of rac-α-hydroxy-α-propyl-γ-oxo-2-thiophenebutyric acid as a colorless powder, melting point 128°-131°, MS: 197 (M-COOH)+.

reactant | potassium hydroxide | 200 mmol, 11.2 g | [OH-].[K+]
reactant | 2-oxo-n-valeric acid | 100 mmol, 11.6 g | CCCC(=O)C(=O)O | C5H8O3
reactant | 2-acetylthiophene | 100 mmol, 12.6 g | C(C)(=O)C=1SC=CC1 | C6H6OS
solvent | water | 75 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | rac-α-hydroxy-α-propyl-γ-oxo-2-thiophenebutyric acid | 10.0 g, 41% | OC(C(=O)O)(CC(C=1SC=CC1)=O)CCC | C11H14O4S
